US05037853
To a solution of oxalyl chloride (6.82 g, 53.71 mmol) in CH2Cl2 (250 mL) at -78° C., was added dimethylsulfoxide (8.76 g, 112.1 mmol) dropwise. The mixture was stirred for 5 mins. A solution of crude 2-phenoxybenzyl alcohol from above in CH2Cl2 (20 mL) was added dropwise. Upon completion of addition, the reaction was stirred for 20 mins at -78° C. Triethylamine (23.58 g, 233.5 mmol) was then added dropwise. The cooling bath was removed and the reaction allowed to warm to room temperature. It was then diluted with brine (250 mL). The layers were separated and the aqueous was extracted with CH2Cl2 (2×250 mL). The organics were combined, dried with MgSO4 and concentrated. The resulting residue was chromatographed (silica gel, ether:hexanes, 20:80) to afford 7.65 g (83% over the two steps) of 2-phenoxybenzaldehyde as a pale yellow oil.

reactant | oxalyl chloride | 53.71 mmol, 6.82 g | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | dimethylsulfoxide | 112.1 mmol, 8.76 g | CS(=O)C | C2H6OS
reactant | 2-phenoxybenzyl alcohol | O(C1=CC=CC=C1)C1=C(CO)C=CC=C1 | C13H12O2
reactant | Triethylamine | 233.5 mmol, 23.58 g | C(C)N(CC)CC | C6H15N
solvent | CH2Cl2 | 250 mL | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 20 mL | C(Cl)Cl | CH2Cl2
product | 2-phenoxybenzaldehyde | O(C1=CC=CC=C1)C1=C(C=O)C=CC=C1 | C13H10O2
